US09290490B2
5-Bromo-2-(bromomethyl)-1,3-thiazole (1.02 g, 3.97 mmol) and triethyl phosphite (1.389 mL, 7.94 mmol) were combined in toluene (8 mL) and stirred at reflux overnight. The reaction was cooled to room temperature and concentrated in vacuo. The residue was purified by chromatography on silica gel (0-5% methanol in ethyl acetate) to afford diethyl[(5-bromo-1,3-thiazol-2-yl)methyl]phosphonate as a yellow oil. MS ESI calc'd. for C8H14BrNO3PS [M+H]+ 314, 316. found 314, 316. 1H NMR (500 MHz, CDCl3) δ 7.59 (s, 1H), 4.17-4.09 (m, 4H), 3.57 (d, J=21.2 Hz, 2H), 1.32 (t, J=7.1 Hz, 6H).

reactant | 5-Bromo-2-(bromomethyl)-1,3-thiazole | 3.97 mmol, 1.02 g | BrC1=CN=C(S1)CBr | C4H3Br2NS
reactant | triethyl phosphite | 7.94 mmol, 1.389 mL | P(OCC)(OCC)OCC | C6H15O3P
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
product | diethyl[(5-bromo-1,3-thiazol-2-yl)methyl]phosphonate | C(C)OP(OCC)(=O)CC=1SC(=CN1)Br | C8H13BrNO3PS
